US05026858
To a solution of 2-methoxy-4-amino-5-nitrobenzoic acid (6.4 g; 0.03 moles) in N,N-dimethylformamide (175 ml) a solution of triethylamine (3 g; 0.03 moles) in N,N-dimethylformamide (5 ml) was added. The mixture was cooled to -5° to -10° C. and a solution of ethyl chloroformate (3.3 g; 0.03 moles) in N,N-dimethylformamide (5 ml) was added. The reaction mixture was stirred at the same temperature for 0.5 hours and then a solution of 1-benzyl-4-aminopiperidine (5.7 g; 0.03 moles) in N,N-dimethylformamide (15 ml) was added. After stirring for 1 hour at -5° to -10° C., the temperature was allowed to reach room temperature overnight. The solvent was removed in vacuo and the residue was poured into an aqueous sodium bicarbonate solution. The resulting solid was exhaustively extracted with methylene chloride, the organic layers washed with an aqueous sodium bicarbonate solution and then with water, dried (Na2SO4 ) and the solvent removed in vacuo. N-(1-Benzylpiperid-4-yl)-2-methoxy-4-amino-5-nitrobenzamide (9.3 g) was obtained and converted into its hydrochloride by treatment with a saturated solution of ethanolic hydrogen chloride; the hydrochloride melted at 218°-220° C. (dec).

reactant | 2-methoxy-4-amino-5-nitrobenzoic acid | 0.03 moles, 6.4 g | COC1=C(C(=O)O)C=C(C(=C1)N)[N+](=O)[O-] | C8H8N2O5
reactant | triethylamine | 0.03 moles, 3 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.03 moles, 3.3 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-benzyl-4-aminopiperidine | 0.03 moles, 5.7 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | N,N-dimethylformamide | 175 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(1-Benzylpiperid-4-yl)-2-methoxy-4-amino-5-nitrobenzamide | 9.3 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=C(C=C(C(=C1)[N+](=O)[O-])N)OC)=O | C20H24N4O4
